US07572811B2
To a solution of 4-[6-(4-Cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (155 mg, 0.398 mmol) in DCM (2 mL) is added trifluoroacetic acid (TFA) (4 mL). The reaction mixture is stirred at room temperature for 30 minutes and evaporated to dryness. The residue obtained is mixed with tert-butyl acrylate (76 mg, 0.6 mmol) and DIEA (193 mg, 1.49 mmol) in MeOH (4 mL) and the mixture is heated in a microwave oven at 90° C. for 30 minutes. The reaction mixture is poured into saturated aqueous NaHCO3 and extracted with EtOAc. The combined extracts are washed with brine and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (150:50:1 hexanes/EtOAc/Et3N) to give 3-{4-[6-(4-Cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridin-3-yl]-piperazin-1-yl}-propionic acid tert-butyl ester. This material is dissolved in DCM/TFA (1:1 v/v, 2 mL), and the solution is stirred at room temperature for 1 hour. After concentration, the crude product is purified by preparative RP LC-MS to give 3-{4-[6-(4-Cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridin-3-yl]-piperazin-1-yl}-propionic acid. 1H NMR (CD3OD): 1.28-1.85 (10H), 2.88 (t, J=6.2 Hz, 2H), 2.90 (m, 1H), 3.15-3.85 (8H), 3.69 (t, J=6.2 Hz, 2H), 5.42 (s, 2H), 7.38 (br, 1H), 7.57 (d, J=7 Hz, 1H), 7.65 (d, J=7 Hz, 1H), 7.71 (s, 1H), 7.91 (s, 1H), 8.05 (br, 1H); ESI-MS m/z 492.2 (MH+).

reactant | 4-[6-(4-Cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.398 mmol, 155 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)OCC1=CC(=C(C=C1)C1CCCCC1)C(F)(F)F | C28H36F3N3O3
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl acrylate | 0.6 mmol, 76 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | DIEA | 1.49 mmol, 193 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 4 mL | CO | CH4O
product | 3-{4-[6-(4-Cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridin-3-yl]-piperazin-1-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN1CCN(CC1)C=1C=NC(=CC1)OCC1=CC(=C(C=C1)C1CCCCC1)C(F)(F)F)=O | C30H40F3N3O3
